US05627173
Isopropyl 2-(dimethoxyphosphinyl)-3-(3-hexyloxy-4-methoxyphenyl)propenoate
Isopropyl 2-(dimethoxyphosphinyl)-3-(3-hydroxy-4-methoxy-phenyl)propenoate (2 g; 0.0058 mol; Table 1, No. 26), 1-bromohexane (0.85 ml; 0.006 mol), 30 ml of dimethylformamide (DMF) and potassium carbonate (ground, 0.89 g; 0.0065 mol) were mixed and stirred at room temperature for 6 hours. The filtrate after removal of the inorganic salts was evaporated under reduced pressure. Residues of DMF were removed from the resulting oily residue in a kugelrohr apparatus at 70° C./0.02 mm Hg, and it was then chromatographed on silica gel eluting with a dichioromethane:ethane acetate (8:2) mixture. This resulted in a pale oil. Yield: 3.6 g (72.5% of theory)

reactant | Isopropyl 2-(dimethoxyphosphinyl)-3-(3-hydroxy-4-methoxy-phenyl)propenoate | COP(=O)(C(C(=O)OC(C)C)=CC1=CC(=C(C=C1)OC)O)OC | C15H21O7P
reactant | 1-bromohexane | 0.006 mol, 0.85 ml | BrCCCCCC | C6H13Br
reactant | potassium carbonate | 0.0065 mol, 0.89 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Isopropyl 2-(dimethoxyphosphinyl)-3-(3-hexyloxy-4-methoxyphenyl)propenoate | COP(=O)(C(C(=O)OC(C)C)=CC1=CC(=C(C=C1)OC)OCCCCCC)OC | C21H33O7P
